US05574055
3-Chloro-4-cyclohexylaniline
A mixture of 1.0 g (5 mmol) of 4-cyclohexyl-nitrobenzene and 0.1 g of iron(III) chloride was heated to 60°. After the cyclohexyl-nitrobenzene had melted chlorine gas was conducted through the well-stirred mixture for 15 minutes. Then, 20 ml of ice-water were added and the mixture was extracted with ether. The ether was distilled off and the residue was dissolved in 60 ml of methanol. Then, the solution was treated with 2.5 g (25 mmol) of copper(I) chloride and portionwise with 1.6 g (29 mmol) of potassium borohydride. After stirring for 30 minutes the mixture was poured into 0.5 l of water and extracted with ether. Drying over sodium sulfate, distillation of the ether and chromatography over silica gel with hexane/ethyl acetate 9:1 gave 0.68 g of oil. MS: m/e (% basic peak)=209 (M+, 75), 166 (100), 140 (78), 131 (62).

reactant | 4-cyclohexyl-nitrobenzene | 5 mmol, 1.0 g | C1(CCCCC1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H15NO2
reactant | cyclohexyl-nitrobenzene | C1(CCCCC1)C1=C(C=CC=C1)[N+](=O)[O-] | C12H15NO2
reactant | chlorine | ClCl | Cl2
reactant | potassium borohydride | 29 mmol, 1.6 g | [BH4-].[K+]
catalyst | iron(III) chloride | 0.1 g | [Fe](Cl)(Cl)Cl
catalyst | copper(I) chloride | 25 mmol, 2.5 g | [Cu]Cl
solvent | water | 0.5 l | O | H2O
product | 3-Chloro-4-cyclohexylaniline | 0.68 g | ClC=1C=C(N)C=CC1C1CCCCC1 | C12H16ClN
